US09303023B2
5-(pyrimidin-4-yl)oxazole-4-carboxylic acid
A solution of methyl 5-(pyrimidin-4-yl)oxazole-4-carboxylate (179 mg, 0.80 mmol) in THF/H2O (1:1, 6 mL) was treated with LiOH (60 mg, 1.43 mmol) at 0° C. The reaction mixture was stirred at 0° C. for 15 min, then diluted with EtOAc and 1N aq. HCl-solution was added (to reach pH=1). The layers were separated and the aq. layer extracted with EtOAc (2×), EtOAc/MeOH 4:1 then DCM/MeOH 4:1. The combined organic extracts were dried (Na2SO4), filtered and concentrated in vacuo to obtain the title compound as a solid which was used without further purification. LC-MS conditions A: tR=0.56 min, [M+H]+=192.47.

reactant | methyl 5-(pyrimidin-4-yl)oxazole-4-carboxylate | 0.80 mmol, 179 mg | N1=CN=C(C=C1)C1=C(N=CO1)C(=O)OC | C9H7N3O3
reactant | LiOH | 1.43 mmol, 60 mg | [Li+].[OH-]
solvent | THF H2O | 6 mL | C1CCOC1.O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | HCl | 1N | Cl | ClH
product | 5-(pyrimidin-4-yl)oxazole-4-carboxylic acid | N1=CN=C(C=C1)C1=C(N=CO1)C(=O)O | C8H5N3O3
